US06730668B2
Preparation of 2-[2-(4-fluorophenyl)acetyl]4-morpholin-4-yl-pyrazolidine-1-carboxylic acid benzyl ester (12):
To a solution of 2-[2-(4-fluorophenyl)acetyl]-4-oxo-pyrazolidine-1-carboxylic acid benzyl ester, 11, (0.14 g, 0.4 mmol) and morpholine (0.038 mL, 0.43 mmol) in THF at room temperature is added Na(OAc)3BH (0.125 g, 0.6 mmol) and HOAc (0.022 mL, 0.4 mmol). The solution is stirred 12 hours then partitioned between diethyl ether and NaHCO3. The aqueous layer was extracted several times with ether and the organic layers combined, dried, and concentrated in vacuo to a clear oil which was re-dissolved in ether and one equivalent of ethereal HCl is added and a white solid forms. The solid is collected by filtration and 100 mg (60% yield) of the desired product is isolated as the HCl salt.

reactant | 2-[2-(4-fluorophenyl)acetyl]-4-oxo-pyrazolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)=O)C(CC1=CC=C(C=C1)F)=O | C19H17FN2O4
reactant | morpholine | 0.43 mmol, 0.038 mL | N1CCOCC1 | C4H9NO
reactant | Na(OAc)3BH | 0.6 mmol, 0.125 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HOAc | 0.4 mmol, 0.022 mL | CC(=O)O | C2H4O2
reactant | HCl | one equivalent | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-[2-(4-fluorophenyl)acetyl]4-morpholin-4-yl-pyrazolidine-1-carboxylic acid benzyl ester | 100 mg, 60% yield | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)N1CCOCC1)C(CC1=CC=C(C=C1)F)=O | C23H26FN3O4
